US07268158B2
To a mixture of the 2-(5-bromo-4-methyl-2-thienyl)-2-methylpropanoic acid in dichloromethane (10 ml) with a catalytic amount of dimethylformamide was added oxalyl chloride (0.30 ml, 0.34 mmol). The mixture was allowed to stir at ambient temperature for 2 hours. The solvent was evaporated and the crude acid chloride dried under vacuum. The crude acid chloride was dissolved in dichloromethane (10 ml) and cooled in an ice-bath. Pyrrolidine (1.2 ml, 14 mmol) was added and the mixture was allowed to stir for 30 minutes while being cooled in an ice-bath. The mixture was poured into ethyl acetate (25 ml) and then extracted with 1N hydrochloric acid. The organic layer was washed with a saturated brine solution, dried over magnesium sulfate and then evaporated to leave 1-[2-(5-bromo-4-methyl-2-thienyl)-2-methylpropanoyl]pyrrolidine as a red oil which was used in the next step without purification.

reactant | 2-(5-bromo-4-methyl-2-thienyl)-2-methylpropanoic acid | BrC1=C(C=C(S1)C(C(=O)O)(C)C)C | C9H11BrO2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.34 mmol, 0.30 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Pyrrolidine | 14 mmol, 1.2 ml | N1CCCC1 | C4H9N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2-(5-bromo-4-methyl-2-thienyl)-2-methylpropanoyl]pyrrolidine | BrC1=C(C=C(S1)C(C(=O)N1CCCC1)(C)C)C | C13H18BrNOS
